US05001124
N-[5-(4'-(1,1-dimethylethyl)phenyl)thien-2-yl]-amine, as prepared in Preparation 5, was dis tetrahydrofuran (50 mL). The solution was then treated with diketene (3.0 mL) at 50° C. for 90 minutes. Evaporation of the solvent and chromatography of the residue on silica gel (100 g, elute with ethyl acetate/hexane mixtures) yielded the acetoacetamide, a compound of formula (C). The acetoacetamide (1.14 g) was then dissolved in benzene (30 mL). The solution was treated with pyrrolidine (0.90 mL) and then refluxed for 2 hours with a Dean Stark trap. The reaction mixture was then cooled to room temperature and the product isolated by filtration to yield 1.130 g of N-5-(4'-(1,1-dimethylethyl)phenyl)thien-2-yl]-3-pyrrolidyl-2-butenamide, m.p. 205°-207° C. B. In a similar manner, but replacing N-[5-(4'-(1,1-dimethylethyl)phenyl)thien-2-yl]amine with other appropriately substituted amines, the following compounds are made:

reactant | acetoacetamide | 1.14 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | pyrrolidine | 0.90 mL | N1CCCC1 | C4H9N
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | 3-pyrrolidyl-2-butenamide | N1(CCCC1)C(=CC(=O)N)C | C8H14N2O
